US04112095
Preparation of 3ethyl-6-(α ,α ,α-trifluoro-m-tolyl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 5.0 g. of 3-chloro-6-(α,α,α-trifluoro-m-tolyl)pyridazine, 3.40 g. of propionic acid hydrazide and 100 ml. of n-butanol is refluxed for 48 hr. The solvent is removed under vacuum and the residue dissolved in chloroform. The solution is passed through a column of hydrous magnesium silicate and the eluent concentrated to give 3.0 g. of crystals (from CHCl3 -hexane), m.p. 183°-185° C.

reactant | 3-chloro-6-(α,α,α-trifluoro-m-tolyl)pyridazine | ClC=1N=NC(=CC1)C=1C=C(C=CC1)C(F)(F)F | C11H6ClF3N2
reactant | propionic acid hydrazide | C(CC)(=O)NN | C3H8N2O
reactant | n-butanol | C(CCC)O | C4H10O
solvent | CHCl3 hexane | C(Cl)(Cl)Cl.CCCCCC
product | 3ethyl-6-(α ,α ,α-trifluoro-m-tolyl)-1,2,4-triazolo[4,3-b]pyridazine | C(C)C1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)C(F)(F)F | C14H11F3N4
